US03978071
A mixture of 1 g of 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetamide, 5 ml of glacial acetic acid and 5 ml of concentrated hydrochloric acid is heated under reflux for 1 hour. The solvent is distilled off under reduced pressure, and water is added to the residue. The mixture is alkalified with 10% sodium hydroxide, and then filtered. The filtrate is adjusted to pH 6 by addition of 10% hydrochloric acid. The crystalline precipitate is filtered off and washed with water to give 0.8 g of 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetic acid as colorless crystals melting at 220°-222°C with decomposition.

reactant | 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetamide | 1 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)CC(=O)N | C15H13N3O
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetic acid | 0.8 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)CC(=O)O | C15H12N2O2
